US08349880B2
Step S (1): A solution of sodium methanolate (0.5 M in methanol, 17.5 mL, 8.74 mmol) was added to a round bottom flask charged with a solution of 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (2.1 g, 8.74 mmol, from preparation R, step R(1) in THF (25 mL). A slight pink color resulted. After 2 h, the reaction mixture was concentrated under reduced pressure. The white solid residue was triturated with ˜50 mL of 1 N HCl. The solid was collected by vacuum filtration and dried under high vacuum for several hours to afford 1-(2-fluoro-6-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (1.84 g, 7.15 mmol, 82% yield) as a white solid. LC-MS (M+H)+ 253.1.0. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.22 (s, 1 H), 7.80 (dd, J=9.0, 2.3 Hz, 1 H), 7.76 (t, J=2.0 Hz, 1 H), 3.99 (s, 3 H), 2.52 (s, 3 H).

reactant | sodium methanolate | 8.74 mmol, 0.5 M, 17.5 mL | C[O-].[Na+]
reactant | 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1N=C(N=C1)C | C9H6F2N4O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoro-6-methoxy-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | 7.15 mmol, 1.84 g, 82% yield | FC1=C(C(=CC(=C1)[N+](=O)[O-])OC)N1N=C(N=C1)C | C10H9FN4O3
